US05629425
6-Methoxy-2-(4-methoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene Hydrochloride
A mixture of the compound prepared as described in Preparation 1 (8.46 grams) and the acid chloride prepared as described in Preparation 4 (10.0 grams) in methylene chloride (350 mL) was cooled to about 20°-25° C. The cool mixture was treated with boron trichloride (2.6 mL), and the resulting mixture mechanically stirred. The reaction was monitored by HPLC using the assay described above. After 85 minutes, the in situ HPLC yield based on a 6-methoxy-2-(4-methoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene standard was 88%.

reactant | boron trichloride | 2.6 mL | B(Cl)(Cl)Cl | BCl3
reactant | 6-methoxy-2-(4-methoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OC)C1 | C30H31NO4S
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
product | 6-Methoxy-2-(4-methoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene Hydrochloride | Cl.COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OC)C1 | InChI=1S/C30H31NO4S.ClH/c1-33-23-10-8-22(9-11-23)30-28(26-15-14-25(34-2)20-27(26)36-30)29(32)21-6-12-24(13-7-21)35-19-18-31-16-4-3-5-17-31;/h6-15,20H,3-5,16-19H2,1-2H3;1H
